US08044213B2
A mixture of 0.370 g (1 mmole) of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d), 3 mL of dimethylformamide, 1.6 g (5 mmole) of cesium carbonate and 0.297 mL (3 mmole) of 1-bromo-3-chloro-propane was heated at 100 degrees for 1 hour. The cooled mixture was diluted with 20 mL of water and the resulting precipitate collected by filtration. The solid was triturated with diethyl ether to give 0.355 g of 2-[6-(3-chloro-propoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.34a) as a brown solid.

reactant | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 1 mmole, 0.370 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 5 mmole, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-chloro-propane | 3 mmole, 0.297 mL | BrCCCCl | C3H6BrCl
solvent | water | 20 mL | O | H2O
product | 2-[6-(3-chloro-propoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.355 g | ClCCCOC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C20H16Cl2N4O2S
